US08029919B2
10-methyl-3,7-bis(1-naphthyl)phenothiazine
9.30 g (25.1 mmol) of 3,7-dibromo-10-methylphenothiazine, 9.50 g (55.2 mmol) of 1-naphthylboronic acid, 0.407 g (0.50 mmol) of bis(triphenylphosphane)palladium dichloride and 3.80 g (27.5 mmol) of potassium carbonate were heated to boiling under reflux under nitrogen for 5 hours in 204 ml of dimethoxyethane and 101 ml of water. The reaction mixture was cooled to room temperature, stirred further overnight and then filtered. The residue was washed with 470 ml of ethanol and hot water, and dried at 70° C. under reduced pressure. The solid was dissolved in 100 ml of methylene chloride and filtered through silica gel. After the solvent had been removed under reduced pressure, a tacky mass was obtained which, after 200 ml of methanol had been added, crystallized with stirring overnight. The crystals were filtered off with suction, washed with 300 ml of methanol and dried at 40° C. under reduced pressure. 10.33 g of light yellow microcrystals having a melting point of 185-190° C. were obtained. The crude product was recrystallized twice from ethyl acetate. 5.71 g (49% of theory) of analytically pure, almost colorless microcrystals having a melting point of 191-194° C. were obtained, whose solution in chloroform fluoresced at λ=468 nm.

reactant | 3,7-dibromo-10-methylphenothiazine | 25.1 mmol, 9.30 g | BrC=1C=CC=2N(C3=CC=C(C=C3SC2C1)Br)C | C13H9Br2NS
reactant | 1-naphthylboronic acid | 55.2 mmol, 9.50 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | potassium carbonate | 27.5 mmol, 3.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 200 ml | CO | CH4O
solvent | dimethoxyethane | 204 ml | C(OC)COC | C4H10O2
solvent | water | 101 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 10-methyl-3,7-bis(1-naphthyl)phenothiazine | CN1C2=CC=C(C=C2SC=2C=C(C=CC12)C1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | C33H23NS
